US08058431B2
1) 2-(3-Dimethylamino-butyl)-1-phenyl-1H-quinazolin-4-one
3.80 g (20.9 mmol) dimethylamino-pentanoic acid were added to 25 ml thionyl chloride and stirred for 90 min. at 55-60° C. The remaining thionyl chloride was distilled in vacuum and the residue was added to a solution of 2.00 g (9.42 mmol) 2-phenylamino-benzamide (see above) in 30 ml trichloromethane at 0° C. The reaction mixture was boiled for 4 h and stirred overnight at room temperature. The residue was filtrated and dissolved in dichloromethane and saturated sodium bicarbonate solution. The organic solvent was dried over magnesium sulfate and evaporated. The yellow oil slowly crystallized.

reactant | dimethylamino-pentanoic acid | 20.9 mmol, 3.80 g | CN(C)C(C(=O)O)CCC | C7H15NO2
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-phenylamino-benzamide | 9.42 mmol, 2.00 g | C1(=CC=CC=C1)NC1=C(C(=O)N)C=CC=C1 | C13H12N2O
solvent | trichloromethane | 30 ml | ClC(Cl)Cl | CHCl3
product | 2-(3-Dimethylamino-butyl)-1-phenyl-1H-quinazolin-4-one | CN(C(CCC=1N(C2=CC=CC=C2C(N1)=O)C1=CC=CC=C1)C)C | C20H23N3O
